US07423147B2
Step A. 5-Morpholin-4-yimethyl-pyrazine-2-carboxylic acid methyl ester.
The title compound was prepared in a manner similar to that described in Example 23, Step C, using 5-formyl-pyrazine-2-carboxylic acid methyl ester (0.78 g, 4.7 mmol) and morpholine (0.44 g, 5.2 mmol).

reactant | 5-formyl-pyrazine-2-carboxylic acid methyl ester | 4.7 mmol, 0.78 g | COC(=O)C1=NC=C(N=C1)C=O | C7H6N2O3
reactant | morpholine | 5.2 mmol, 0.44 g | N1CCOCC1 | C4H9NO
product | 5-Morpholin-4-yimethyl-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)CN1CCOCC1 | C11H15N3O3
